US08957078B2
To a solution of 2-cyano-N-(2-methyl-3-phenyl-imidazol-4-yl)acetamide (100 mg, 0.4162 mmol) in Ethanol (1.5 mL) was sequentially added sodium acetate (68.28 mg, 0.8324 mmol), 2,2,2-trichloroacetonitrile (0.051 mL, 0.5016 mmol) and the reaction was stirred at room temperature for 4 h. A further 10 mg of sodium acetate and 10 uL 2,2,2-trichloroacetonitrile was sequentially added and the mixture was stirred for a further 2 h at RT. The reaction was concentrated in vacuo and the residue was partitioned between water and EtOAc. Combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo to give 3-amino-4,4,4-trichloro-2-cyano-N-(2-methyl-1-phenyl-1H-imidazol-5-yl)but-2-enamide as a redish oil. (153 mg, 79%). MS (ES+) 384.0.

reactant | 2-cyano-N-(2-methyl-3-phenyl-imidazol-4-yl)acetamide | 0.4162 mmol, 100 mg | C(#N)CC(=O)NC=1N(C(=NC1)C)C1=CC=CC=C1 | C13H12N4O
reactant | sodium acetate | 0.8324 mmol, 68.28 mg | C(C)(=O)[O-].[Na+]
reactant | 2,2,2-trichloroacetonitrile | 0.5016 mmol, 0.051 mL | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | sodium acetate | 10 mg | C(C)(=O)[O-].[Na+]
reactant | 2,2,2-trichloroacetonitrile | 10 uL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | Ethanol | 1.5 mL | C(C)O | C2H6O
product | 3-amino-4,4,4-trichloro-2-cyano-N-(2-methyl-1-phenyl-1H-imidazol-5-yl)but-2-enamide | NC(=C(C(=O)NC1=CN=C(N1C1=CC=CC=C1)C)C#N)C(Cl)(Cl)Cl | C15H12Cl3N5O
